US08497281B2
6-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-3H-benzothiazol-2-one
The title compound is prepared from 2-oxo-2,3-dihydro-benzothiazole-6-carboxylic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate is used]. Yield: 56% of theory; LC (method 3): tR=2.32 min; Mass spectrum (ESI+): m/z=365 [M+H]+.

reactant | 2-oxo-2,3-dihydro-benzothiazole-6-carboxylic acid | O=C1SC2=C(N1)C=CC(=C2)C(=O)O | C8H5NO3S
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | 6-(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinoline-4-carbonyl)-3H-benzothiazol-2-one | Yield: 56% | C1CCN([C@H]2CCC3=C([C@@H]12)C=CC=C3)C(=O)C3=CC1=C(NC(S1)=O)C=C3 | C21H20N2O2S
